US09193689B2
(5-Bromo-pyrimidin-2-yl)-(4-cyclopropylmethyl-piperazin-1-yl)-methanone (46 mg, 0.14 mmol), bis(pinacolato)diboron (43 mg, 0.17 mmol), Pd(dppf)Cl2 (12 mg, 0.014 mmol) and potassium acetate (42 mg, 0.42 mmol) in 1,4-dioxane (0.7 mL) were added to a microwave vial and the reaction mixture purged with N2 for 10 min. The reaction mixture was irradiated using a microwave reactor (300 W, 120° C., 20 min). The reaction mixture was passed through a Si-thiol cartridge (2 g) and the column washed with MeOH (4× column volumes). The solvent was removed in vacuo and purified by reverse phase preparative HPLC-MS. The sample was passed through a SCX-2 cartridge (500 mg) and the column washed with MeOH (4× column volumes). The compound was eluted from the column with 0.5M NH3/MeOH to afford 2-(4-cyclopropylmethyl-piperazine-1-carbonyl)-pyrimidine-5-boronic acid as a white solid (29 mg, 70%).

reactant | (5-Bromo-pyrimidin-2-yl)-(4-cyclopropylmethyl-piperazin-1-yl)-methanone | 0.14 mmol, 46 mg | BrC=1C=NC(=NC1)C(=O)N1CCN(CC1)CC1CC1 | C13H17BrN4O
reactant | bis(pinacolato)diboron | 0.17 mmol, 43 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.42 mmol, 42 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.014 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-cyclopropylmethyl-piperazine-1-carbonyl)-pyrimidine-5-boronic acid | 29 mg, 70% | C1(CC1)CN1CCN(CC1)C(=O)C1=NC=C(C=N1)B(O)O | C13H19BN4O3
